US07671056B2
Alternatively, 8-bromo-5-fluoroquinoline was prepared by adding a warm mixture containing 2-bromo-5-fluoroaniline (100 g, 1.0 eq), 4-nitrophenol (40 g, 0.54 eq), and glycerol (97 g, 2.0 eq) over 1.5 hours to sulfuric acid (267 ml) and water (114 mL) at 140-150° C. The initial mixture showed 37.8% 4-nitrophenol by relative HPLC area %. Samples showed 4.7% 4-nitrophenol immediately after adding 50% of mixed starting materials and 5.0% immediately after adding all of the materials. The yield upon workup was 87.5%, with total impurities 0.29%. Addition of less (0.46 eq, 34 g) 4-nitrophenol also successfully produced the intermediate of interest at acceptable yield.

reactant | 2-bromo-5-fluoroaniline | 100 g, 1.0 eq | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | 4-nitrophenol | 40 g, 0.54 eq | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | glycerol | 97 g, 2.0 eq | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 267 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-nitrophenol | 34 g, 0.46 eq | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | water | 114 mL | O | H2O
product | 8-bromo-5-fluoroquinoline | BrC=1C=CC(=C2C=CC=NC12)F | C9H5BrFN
